US07968570B2
A mixture of 2-bromomethyl-6-chloro-benzoic acid methyl ester (0.148 g, 0.6 mmol), C-dibenzo[1,4]dioxin-2-yl-methylamine (0.213 g, 1.0 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-Chloro-2-dibenzo[1,4]dioxin-2-ylmethyl-2,3-dihydro-isoindol-1-one (0.023 g, 13%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.34 (s, 2H), 4.65 (s, 2H), 6.85 (m, 8H), 7.40 (t, 2H). GC-MS: m/z 363 (M)+.

reactant | 2-bromomethyl-6-chloro-benzoic acid methyl ester | 0.6 mmol, 0.148 g | COC(C1=C(C=CC=C1Cl)CBr)=O | C9H8BrClO2
reactant | C-dibenzo[1,4]dioxin-2-yl-methylamine | 1.0 mmol, 0.213 g | C1=C(C=CC=2OC3=C(OC21)C=CC=C3)CN | C13H11NO2
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-Chloro-2-dibenzo[1,4]dioxin-2-ylmethyl-2,3-dihydro-isoindol-1-one | 0.023 g, 13% | ClC=1C=CC=C2CN(C(C12)=O)CC1=CC2=C(OC3=C(O2)C=CC=C3)C=C1 | C21H14ClNO3
